US05866560
A solution of 7.26 g of α-(5-acetoxypentyl)-3-benzyloxy-estra-1,3,5(10)-trien-17-one in 80 ml of methanol and 3 ml of tetrahydrofuran is saponified with 22.2 ml of 2N sodium hydroxide solution overnight at room temperature. The reaction solution is poured into 2N hydrochloric acid, shaken out with ethyl acetate, the organic phase is washed with saturated common salt solution, dried on sodium sulfate and concentrated by evaporation. 6.7 g of 3-benzyloxy-7α-(5-hydroxypentyl)-estra-1,3,5(10)-trien-17-one is obtained as foam.

reactant | α-(5-acetoxypentyl)-3-benzyloxy-estra-1,3,5(10)-trien-17-one | 7.26 g | C(C)(=O)OCCCCCC(C1=CC=CC=C1)OC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C32H40O4
reactant | sodium hydroxide | 2N, 22.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 80 ml | CO | CH4O
product | 3-benzyloxy-7α-(5-hydroxypentyl)-estra-1,3,5(10)-trien-17-one | 6.7 g | C(C1=CC=CC=C1)OC1=CC=2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)CCCCCO | C30H38O3
